US08957080B2
Synthesis of N—((S)-1-(4-amino-3-(2-fluoro-4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)propan-2-yl)-2-cyano-4-methylpent-2-enamide
A suspension of N-[(2S)-1-[4-amino-3-(2-fluoro-4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]propan-2-yl]-2-cyanoacetamide (250 mg, 0.56 mmol, 1.00 equiv), 2-methylpropanal (81 mg, 1.12 mmol, 2.00 equiv) and piperidine (47 mg, 0.55 mmol, 1.00 equiv) in methanol (15 mL) was stirred at room temperature overnight. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1/1). The purified product was re-purified on Prep-HPLC eluting with TFA (0.05%)/H2O and CH3CN. The organic phase was removed off under reduced pressure. The aqueous phase was adjusted to 10 with potassium carbonate, which was extracted with DCM. The organic layers were combined, washed with brine, dried over sodium sulfated, filtrated and concentrated. This resulted in 46.4 mg (17%) of the title compound as a white solid. LC-MS m/z: 500 (M+1). H-NMR (400 MHz, CDCl3, ppm): 8.49 (s, 1H), 8.12 (d, J=7.2 Hz, 1H), 7.60 (t, J=8.8 Hz, 1H), 7.44 (m, 3H), 7.25-7.21 (m, 1H), 7.13 (d, J=8.4 Hz, 2H), 6.94 (dd, J=8.4, 2.4 Hz, 1H), 6.88 (dd, J=11.2, 2.4 Hz, 1H), 5.51 (brs, 2H), 4.74-4.55 (m, 3H), 3.00-2.95 (m, 1H), 1.21 (d, J=6.8, 3H), 1.15 (d, J=6.8 Hz, 6H).

reactant | N-[(2S)-1-[4-amino-3-(2-fluoro-4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]propan-2-yl]-2-cyanoacetamide | 0.56 mmol, 250 mg, 1.00 equiv | NC1=C2C(=NC=N1)N(N=C2C2=C(C=C(C=C2)OC2=CC=CC=C2)F)C[C@H](C)NC(CC#N)=O | C23H20FN7O2
reactant | 2-methylpropanal | 1.12 mmol, 81 mg, 2.00 equiv | CC(C=O)C | C4H8O
reactant | piperidine | 0.55 mmol, 47 mg, 1.00 equiv | N1CCCCC1 | C5H11N
solvent | methanol | 15 mL | CO | CH4O
product | N—((S)-1-(4-amino-3-(2-fluoro-4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)propan-2-yl)-2-cyano-4-methylpent-2-enamide | 46.4 mg, 17% | NC1=C2C(=NC=N1)N(N=C2C2=C(C=C(C=C2)OC2=CC=CC=C2)F)C[C@H](C)NC(C(=CC(C)C)C#N)=O | C27H26FN7O2
